US08633182B2
Step 2. 4-amino-N-(2-hydroxy-2-methyl-propyl)-3,5-dimethyl-benzamide
4-Nitro-N-(2-hydroxy-2-methyl-propyl)-3,5-dimethyl-benzamide (1.2 g, 4.51 mmol) is suspended in methanol (10 mL) and hydrogenated at 3 bar for 3 hours using 10% palladium on activated carbon (120 mg) as the catalyst. The mixture is filtered through celite and the solvent removed under vacuum to give the title compound (Yield 900 mg).

reactant | 4-Nitro-N-(2-hydroxy-2-methyl-propyl)-3,5-dimethyl-benzamide | 4.51 mmol, 1.2 g | [N+](=O)([O-])C1=C(C=C(C(=O)NCC(C)(C)O)C=C1C)C | C13H18N2O4
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on activated carbon | 120 mg | [Pd] | Pd
product | 4-amino-N-(2-hydroxy-2-methyl-propyl)-3,5-dimethyl-benzamide | Yield 900 mg | NC1=C(C=C(C(=O)NCC(C)(C)O)C=C1C)C | C13H20N2O2
